US08114902B2
Trifluoromethanesulfonic acid 5-benzyloxynaphthalen-1-yl ester
1-Benzyloxy-5-hydroxynaphthalene (2.2 g) was dissolved in dichloromethane (75 mL), pyridine (1.1 mL) was added, and trifluoromethanesulfonic anhydride (1.8 mL) diluted with dichloromethane (15 mL) was slowly added dropwise thereto at 0° C. After stirring at the same temperature for 1 hr, aqueous sodium hydrogen carbonate was added to the reaction mixture. The mixture was extracted with dichloromethane, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and the resulting crystals were washed with hexane to give the object product (2.3 g) as pale-yellow crystals.

reactant | 1-Benzyloxy-5-hydroxynaphthalene | 2.2 g | C(C1=CC=CC=C1)OC1=CC=CC2=C(C=CC=C12)O | C17H14O2
reactant | pyridine | 1.1 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 5-benzyloxynaphthalen-1-yl ester | 2.3 g | C(C1=CC=CC=C1)OC1=C2C=CC=C(C2=CC=C1)OS(=O)(=O)C(F)(F)F | C18H13F3O4S
